US09034866B2
Synthesis of 10-(3-hydroxy-3-methylbut-1-yn-1-yl)-3-((pyridin-2-yloxy)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-3-((pyridin-2-yloxy)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide (prepared similarly as described in the synthesis of 10-bromo-3-((2-methyl-1H-imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide replacing 2-methylimidazole with 2-pyridone) was reacted with 2-methylbut-3-yn-2-ol to give the titled compound as an off-white solid (5 mg, 5%).

reactant | 10-bromo-3-((pyridin-2-yloxy)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)COC3=NC=CC=C3)C1 | C18H15BrN4O3
reactant | 10-bromo-3-((2-methyl-1H-imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3C(=NC=C3)C)C1 | C17H16BrN5O2
reactant | 2-pyridone | N1C(C=CC=C1)=O | C5H5NO
reactant | 2-methylbut-3-yn-2-ol | CC(C)(C#C)O | C5H8O
product | 10-(3-hydroxy-3-methylbut-1-yn-1-yl)-3-((pyridin-2-yloxy)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 5 mg, 5% | OC(C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)COC3=NC=CC=C3)C1)(C)C | C23H22N4O4
